### PR TITLE
[Merged by Bors] - feat (RingTheory/Binomial) : Multichoose lemmata

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR has some basic lemmas for the `Ring.multichoose` function.  They are generalizations of corresponding lemmas for `Nat.multichoose`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Binomial.lean [hunk 1]
```diff
@@ -79,6 +79,69 @@ theorem factorial_nsmul_multichoose_eq_ascPochhammer (r : R) (n : ℕ) :
...
+  rw [← C_eq_natCast, smeval_C, npow_zero, add_assoc, add_mul, add_comm 1, @nsmul_one, add_mul]
+  rw [← @nsmul_eq_mul, @add_rotate', @succ_nsmul, add_assoc]
+  simp_all only [Nat.cast_id, nsmul_eq_mul, one_mul]
+
+theorem multichoose_succ_succ (r : R) (k : ℕ) :
+    multichoose (r + 1) (k + 1) = multichoose r (k + 1) + multichoose (r + 1) k := by
+  refine nsmul_right_injective (Nat.factorial (k + 1)) (Nat.factorial_ne_zero (k + 1)) ?_
+  simp only [factorial_nsmul_multichoose_eq_ascPochhammer, smul_add]
+  rw [add_comm (smeval (ascPochhammer ℕ (k+1)) r)]
+  exact ascPochhammer_succ_succ r k
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Binomial.lean:127]:
```suggestion
  rw [add_comm (smeval (ascPochhammer ℕ (k+1)) r), ascPochhammer_succ_succ r k]
```
if you're into the whole golf thing.

**Review by kbuzzard — APPROVED** [review]
Thanks!

bors d+
